US07378415B2
To a solution of 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-chloro-ethanone (0.216 g., 0.614 mmol) in 2 mL acetonitrile was added potassium carbonate (0.101 g., 0.737 mmol), imidazole (0.209 g., 3.07 mmol) and sodium iodide (2 mg, cat.), and the resulting suspension was refluxed for 2 hours. The reaction mixture was added to 100 mL ethyl acetate, and the inorganic components extracted three times with 50 mL water. The aqueous fraction was extracted twice with 50 mL ethyl acetate, and the combined organic fractions were dried over sodium sulfate and concentrated in vacuo. The crude solid was recrystallized from 3 mL dichloromethane to give 100 mg (42%) of 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-imidazol-1-yl-ethanone as a white solid. MS: 385 (M+H)+.

reactant | 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-chloro-ethanone | 0.614 mmol, 0.216 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C(CCl)=O)C=C1 | C16H14ClNO4S
reactant | potassium carbonate | 0.737 mmol, 0.101 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 3.07 mmol, 0.209 g | N1C=NC=C1 | C3H4N2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | sodium iodide | 2 mg | [I-].[Na+]
product | 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-imidazol-1-yl-ethanone | 100 mg, 42% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C(CN2C=NC=C2)=O)C=C1 | C19H17N3O4S
